US04898871
The procedure is as in Example 22, but starting with N-propylglycolamide (9.4 g) in tetrahydrofuran (375 cc), an oily suspension (50% by weight; 3.3 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (15 g). After recrystallization in acetonitrile, [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1isoindolinyloxy]-N-propylacetamide (10.5 g), m.p. 167° C., is obtained.

reactant | N-propylglycolamide | 9.4 g | C(CC)NC(CO)=O | C5H11NO2
reactant | sodium hydride | 3.3 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 15 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 375 cc | O1CCCC1 | C4H8O
product | [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1isoindolinyloxy]-N-propylacetamide | 10.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NCCC | C21H19ClN4O3
